US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
A mixture of 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide (80 mg, 0.26 mmol), 2-(azetidin-1-ylcarbonyl)-5-bromopyridine (64 mg, 0.26 mmol), bromotris(triphenylphosphine)copper(I) (49 mg, 0.05 mmol) and caesium carbonate (257 mg, 0.78 mmol) in acetonitrile (3 mL) was stirred in a Smith Creator microwave at 160° C. for 6 hours. The solid was filtered off and the solvent was removed in vacuo and ethyl acetate (50 mL) added to the residue. The organic phase was washed with water (20 mL), brine (50 mL), dried (MgSO4), filtered and the solvent removed in vacuo to give a yellow oil which was chromatographed on silica, eluting with a gradient of 0-10% methanol in DCM, to give the title compound as a colourless solid (58 mg). This compound was crystallised from ethyl acetate and isohexane using vapour diffusion techniques. 1H NMR δ (CDCl3): 2.11-2.17 (1H, m), 2.20-2.29 (1H, m), 2.32-2.39 (2H, m), 3.78 (3H, s), 3.88-3.93 (1H, m), 3.96-4.02 (3H, m), 4.25 (2H, t), 4.71 (2H, t), 4.97 (1H, t), 6.73 (1H, t), 6.79 (1H, s), 7.11 (1H, s), 7.22 (1H, s), 7.27-7.30 (1H, m), 7.36-7.39 (1H, m), 8.12 (1H, d), 8.32 (1H, d), 8.73 (1H, s); m/z 464 (M+H)+.

reactant | 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 0.26 mmol, 80 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1 | C15H17N3O4
reactant | 2-(azetidin-1-ylcarbonyl)-5-bromopyridine | 0.26 mmol, 64 mg | N1(CCC1)C(=O)C1=NC=C(C=C1)Br | C9H9BrN2O
reactant | caesium carbonate | 0.78 mmol, 257 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | bromotris(triphenylphosphine)copper(I) | 0.05 mmol, 49 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cu]Br
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 58 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1 | C24H25N5O5
